US07385061B2
4-[1-(4-Chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-methoxycarbonylethyl)-amine
A suspension of 4-(1H-benzimidazol-2-yl)-furazan-3-yl-N-(2-methoxycarbonylethyl)-amine (0.052 g, 0.181 mmol), potassium carbonate (0.062 g, 0.452 mmol) and 4-chlorophenacyl bromide (0.047 g, 0.199 mmol) in DMF (5 ml) is stirred at room temperature for 16 hours. The reaction mixture is diluted with ethyl acetate, washed with water and dried over sodium sulphate. Filtration of the sodium sulphate, concentration of the filtrate under reduced pressure and chromatography of the residue on silicagel using hexane-ethyl acetate as eluent gives the title compound as hygroscopic solid of undefined melting point. 1H-NMR (400 MHz, d6-DMSO): 8.14 (d, 2H); 7.87 (m, 2H); 7.41 (m, 2H); 7.32 (d, 2H); 7.29 (t, 1H); 6.37 (s, 2H); 3.63 (m, 2H); 3.61 (s, 3H); 2.76 (t, 2H).

reactant | 4-(1H-benzimidazol-2-yl)-furazan-3-yl-N-(2-methoxycarbonylethyl)-amine | 0.181 mmol, 0.052 g | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)NCCC(=O)OC | C13H13N5O3
reactant | potassium carbonate | 0.452 mmol, 0.062 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenacyl bromide | 0.199 mmol, 0.047 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(4-Chlorophenacyl)-1H-benzimidazol-2-yl]-furazan-3-yl-N-(2-methoxycarbonylethyl)-amine | ClC1=CC=C(C(CN2C(=NC3=C2C=CC=C3)C=3C(=NON3)NCCC(=O)OC)=O)C=C1 | C21H18ClN5O4
